US07935688B2
(1) Synthesis of (4′-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-biphenyl-3-yl)-acetic Acid Methyl Ester
(3-Bromo-phenyl)acetic acid methyl ester (Tetrahedron Letters 44 (2003) 331-334; 26 mg, 0.114 mmol), palladium acetate (1.8 mg, 0.008 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (6.2 mg, 0.015 mmol), potassium phosphate (48 mg, 0.228 mmol) and water (0.2 mL) were added to a solution of 3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol (Example 39-(5); 36.3 mg, 0.076 mmol) in toluene (2 mL). After replacement with nitrogen, the mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was then poured into a saturated aqueous sodium bicarbonate solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the target compound as a colorless oil (30.8 mg, 81%).

reactant | (3-Bromo-phenyl)acetic acid methyl ester | 0.114 mmol, 26 mg | COC(CC1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.015 mmol, 6.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 0.228 mmol, 48 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-ethyl-1-(4-{1-ethyl-1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenyl)-1-penten-3-ol | 0.076 mmol, 36.3 mg | C(C)C(C=CC1=C(C=C(C=C1)C(CC)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC)C)(CC)O | C31H45BO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.008 mmol, 1.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.2 mL | O | H2O
product | (4′-{1-ethyl-1-[4-((E)-3-ethyl-3-hydroxy-1-pentenyl)-3-methyl-phenyl]-propyl}-biphenyl-3-yl)-acetic Acid Methyl Ester | 30.8 mg, 81% | COC(CC=1C=C(C=CC1)C1=CC=C(C=C1)C(CC)(C1=CC(=C(C=C1)\C=C\C(CC)(O)CC)C)CC)=O | C34H42O3
